US07420083B2
To a solution of 4-amino-2-(3,5-bis-trifluoromethyl-benzoylamino)-benzoic acid methyl ester (1.70 g, 4.18 mmol) in trifluoroacetic acid (25 mL) which has been cooled to 0° C. was slowly added a solution of sodium nitrite (0.35 g, 5.06 mmol in 9 mL of water). In a separate flask, concentrated sulfuric acid (21 m]L) was added to water (50 mL) to make a 30% sulfuric acid solution. After 5 minutes, the trifluoroacetic acid mixture was slowly added to the sulfuric acid solution. After complete addition, the reaction mixture was allowed to stir at ambient temperature for 15 minutes. The reaction mixture was extracted with three portions of ethyl acetate. The organics were combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by flash chromatography through silica gel using ethyl acetate/hexanes (20/80) to give 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-hydroxy-benzoic acid methyl ester (1.30 g, 76%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6); δ 11.92 (s, 1H), 10.68 (s, 1H), 8.50 (s, 2H), 8.44 (s, 1H), 8.03 (d, 1H), 7.88 (d, 1H), 6.64 (dd, 1H), 3.84 (s, 3H).

reactant | 4-amino-2-(3,5-bis-trifluoromethyl-benzoylamino)-benzoic acid methyl ester | 4.18 mmol, 1.70 g | COC(C1=C(C=C(C=C1)N)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C17H12F6N2O3
reactant | sodium nitrite | 5.06 mmol, 9 mL, 0.35 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | 50 mL | O | H2O
solvent | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-hydroxy-benzoic acid methyl ester | 1.30 g, 76% | COC(C1=C(C=C(C=C1)O)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C17H11F6NO4
